US07129235B2
3′-(trifluoromethyl)-3,6-dihydro-2H-1,2′-bipyridine-4-carboxylic acid
Methyl 3′-(trifluoromethyl)-3,6-dihydro-2H-1,2′-bipyridine-4-carboxylate (15 mL) in THF (30 mL) was treated with 1N NaOH (27 mL) and stirred for 2 hours. The mixture was treated with additional 1N NaOH (16 mL), stirred for 1 hour, treated with 1N NaOH (14.5 mL), and stirred for 1 hour. The mixture was diluted with water and extracted with CH2Cl2. The aqueous layer was then acidified with concentrated HCl and extracted with CHCl3. The organic layer was dried (Na2SO4), filtered, and the filtrate was concentrated under reduced pressure to provide the title compound.

reactant | Methyl 3′-(trifluoromethyl)-3,6-dihydro-2H-1,2′-bipyridine-4-carboxylate | 15 mL | FC(C=1C(=NC=CC1)N1CCC(=CC1)C(=O)OC)(F)F | C13H13F3N2O2
reactant | NaOH | 1N, 27 mL | [OH-].[Na+]
reactant | NaOH | 1N, 16 mL | [OH-].[Na+]
reactant | NaOH | 1N, 14.5 mL | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3′-(trifluoromethyl)-3,6-dihydro-2H-1,2′-bipyridine-4-carboxylic acid | FC(C=1C(=NC=CC1)N1CCC(=CC1)C(=O)O)(F)F | C12H11F3N2O2
